US06066658
To a mixture of ethyl 4-chloro-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate (3.00 g), triethylamine (1.44 g) and pyridine (25 ml), ethyl thioglycolate (1.37 g) was added at 0° C., followed by stirring at 0° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure; the residue was poured over water and extracted with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid and water in that order and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:7 to 1:5, v/v) to yield ethyl 4-ethoxycarbonylmethylthio-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate (3.07 g, 81.0%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 102-103° C.

reactant | ethyl 4-chloro-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate | 3.00 g | ClC1=C(CCC2=C(SC(=C21)SC)C(=O)OCC)C=O | C13H13ClO3S2
reactant | triethylamine | 1.44 g | C(C)N(CC)CC | C6H15N
reactant | ethyl thioglycolate | 1.37 g | C(CS)(=O)OCC | C4H8O2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-ethoxycarbonylmethylthio-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate | 3.07 g, 81.0% | C(C)OC(=O)CSC1=C(CCC2=C(SC(=C21)SC)C(=O)OCC)C=O | C17H20O5S3
